US07582638B2
Add 5-(1-fluoromethyl-cyclopropyl)-2-p-tolyl-2H-pyrazol-3-ylamine (160.00 mg; 652.26 μmoles) dissolved in 1 L of DCM slowly to a solution of 1,1′-carbonyldiimidazole (158.65 mg, 978.39 μmoles) in DCM. Stir mixture at 40° C. for 7 hours. Then add a solution of [4-(4-Amino-isoquinolin-1-yloxy)-piperidin-1-yl]-(1-methyl-cyclopropyl)-methanone (Preparation 23, 212.25 mg, 652.26 μmoles, 1.00 equiv) in 1 mL of DCM. Stir mixture overnight. Evaporate solvent under N2. Purify first by HLB cartridge (6 g) using NH4CO3/MeOH (100:0 to 0:100) and then finally by HPLC (Kromasil C18 column (100×21.2 mm, 5 □m (Hi-Chrom). The mobile phase is water (solvent A) and acetonitrile (solvent B), both containing 0.05% trifluoroacetic acid (TFA). Gradient mode: 2 min at 40% of B, from 40 to 60% of B in 6 min. Finally, 2 min at 95% of B. Flow rate: 25 mL/min) affording 1-[5-(1-fluoromethyl-cyclopropyl)-2-p-tolyl-2H-pyrazol-3-yl]-3-{1-[1-(1-methyl-cyclopropanecarbonyl)-piperidin-4-yloxy]-isoquinolin-4-yl}-urea as a solid (19 mg, 5% yield). ES+ (m/z):597[M+1].

reactant | 5-(1-fluoromethyl-cyclopropyl)-2-p-tolyl-2H-pyrazol-3-ylamine | 652.26 μmoles, 160.00 mg | FCC1(CC1)C=1C=C(N(N1)C1=CC=C(C=C1)C)N | C14H16FN3
reactant | 1,1′-carbonyldiimidazole | 978.39 μmoles, 158.65 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | [4-(4-Amino-isoquinolin-1-yloxy)-piperidin-1-yl]-(1-methyl-cyclopropyl)-methanone | 652.26 μmoles, 212.25 mg, 1.00 equiv | NC1=CN=C(C2=CC=CC=C12)OC1CCN(CC1)C(=O)C1(CC1)C | C19H23N3O2
solvent | DCM | 1 L | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 1-[5-(1-fluoromethyl-cyclopropyl)-2-p-tolyl-2H-pyrazol-3-yl]-3-{1-[1-(1-methyl-cyclopropanecarbonyl)-piperidin-4-yloxy]-isoquinolin-4-yl}-urea | 19 mg, 5% yield | FCC1(CC1)C=1C=C(N(N1)C1=CC=C(C=C1)C)NC(=O)NC1=CN=C(C2=CC=CC=C12)OC1CCN(CC1)C(=O)C1(CC1)C | C34H37FN6O3
